US04058571
1.6 % of d,l-menthol;
0.04 % of menthone, piperitone; and

reactant | menthone | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
reactant | piperitone | CC1=CC(=O)C(CC1)C(C)C | C10H16O
product | d,l-menthol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
